US05380742
12.3 1-Ethyl-5-[(4,5-dihydro-1H-imidazol-2-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride
0.53 g of 1-ethyl-5,6-dihydro-4H-thieno-[3,4-c]pyrrole hydrochloride, 1.47 ml of N,N-diisopropylethylamine and 15 ml of dimethylformamide are introduced into a 25 ml round-bottomed flask and then a solution of 0.75 g of 2-chloromethyl-1H-4,5-dihydroimidazole hydrochloride and 0.5 ml of N,N-diisopropylethyl-amine in 15 ml of dimethylformamide is added. The reaction mixture is subjected to ultrasound for 8 h, the solvent is then evaporated and the residue is purified by chromatography on silica gel with ethanol as eluent. The product is recrystallized from 5 ml of isopropanol saturated with hydrochloric acid. 0.233 g of product is obtained. Melting point: 207°-208° C. (with decomposition).

reactant | 1-ethyl-5,6-dihydro-4H-thieno-[3,4-c]pyrrole hydrochloride | 0.53 g | Cl.C(C)C=1SC=C2C1CNC2
reactant | N,N-diisopropylethylamine | 1.47 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethyl-amine | 0.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-5-[(4,5-dihydro-1H-imidazol-2-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride | 0.233 g | Cl.Cl.C(C)C=1SC=C2C1CN(C2)CC=2NCCN2 | InChI=1S/C12H17N3S.2ClH/c1-2-11-10-6-15(5-9(10)8-16-11)7-12-13-3-4-14-12;;/h8H,2-7H2,1H3,(H,13,14);2*1H
